US07592373B2
6.32.b. N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)propionamide
100 mL of formic acid is added to a reaction mixture of 3 g of Raney nickel moistened with water and 14.22 g (39.41 mmol) of N-(4′-chlorobiphenyl-4-yl)-3-(4-cyanophenyl)propionamide and refluxed for 20 hours. Then the catalyst is suction filtered and the filtrate is diluted with plenty of water. The precipitated N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)propionamide is suction filtered and dissolved in ethyl acetate. The organic phase is washed first of all with 2 molar sodium hydroxide solution, then with water and finally with saturated sodium chloride solution, dried over sodium sulfate and activated charcoal, and freed from solvent by rotary evaporation. Yield: 11.7 g (57% of theory); C22H18ClNO2 (M=363.84); calc.: molecular ion peak (M+H)+: 364/66 (Cl); found: molecular ion peak (M+H)+: 364/66 (Cl); Rf value: 0.5 (silica gel, cyclohexane/ethyl acetate (1:1)).

reactant | formic acid | 100 mL | C(=O)O | CH2O2
reactant | N-(4′-chlorobiphenyl-4-yl)-3-(4-cyanophenyl)propionamide | 39.41 mmol, 14.22 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCC1=CC=C(C=C1)C#N)=O | C22H17ClN2O
catalyst | Raney nickel | 3 g | [Ni] | Ni
solvent | water | O | H2O
product | N-(4′-chlorobiphenyl-4-yl)-3-(4-formylphenyl)propionamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCC1=CC=C(C=C1)C=O)=O | C22H18ClNO2
